US04595408
N-m-propionamidophenyl-2-methyl-2-ethylsuccinimide
Two and eight-tenths g. of propionylchloride was added dropwise to a well-stirred solution of 7 g. of N-m-aminophenyl-2-methyl-2-ethylsuccinimide and 3.5 g. of triethylamine in 50 ml. of acetone in a water bath. When the reaction was complete (after approximately 30 minutes), the mixture was poured into approximately 500 ml. of water and the product extracted with approximately 50 ml. of methylene chloride, dried and the solvent stripped under vacuum. The yield was 7.7 g. of a thick oil having a nD30 of 1.5510. The product was identified as the title compound by analysis of infrared spectra.

reactant | propionylchloride | C(CC)(=O)Cl | C3H5ClO
reactant | N-m-aminophenyl-2-methyl-2-ethylsuccinimide | NC=1C=C(C=CC1)N1C(C(CC1=O)(CC)C)=O | C13H16N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | N-m-propionamidophenyl-2-methyl-2-ethylsuccinimide | C(CC)(=O)NC=1C=C(C=CC1)N1C(C(CC1=O)(CC)C)=O | C16H20N2O3
